data/pmechdb/original/mc_train_fold0/raw/train.txt
C=CC(=[O:10])OC1=CC=CC=C1.C1=CC=C(C=C1)O[Al:20](N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)OC2=CC=CC=C2.CC=CO[Si]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C>>C=CC(=[O+:10][Al-:20](N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)(OC1=CC=CC=C1)OC2=CC=CC=C2)OC3=CC=CC=C3.CC=CO[Si]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C 10=20,
[H:20][OH+:21]C(C(=CCCC)C)NC(C)(C)C.[OH2:10]>>[H:20][OH2+:10].CCCC=C(C)C(NC(C)(C)C)[OH:21] 10=20;20,21=21
CCC1CC=[NH+]C2=CC=CC=C12.CC(C)C[AlH:20]CC(C)C.CC(C)C[Al](CC(C)C)[O-:10]>>CCC1CC=[NH+]C2=CC=CC=C12.CC(C)C[AlH-:20](CC(C)C)[O:10][Al](CC(C)C)CC(C)C 10=20
[H:20][NH2+:21]C(C)(CCC(=O)C1=CC(=CC(=C1)C2=CC=C(N2)C)C(=O)CCC(=O)C)O.CC(=O)[O-:10].C(=O)[O-]>>[H:20][O:10]C(=O)C.CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(C)([NH2:21])O.C(=O)[O-] 10=20;20,21=21
COC(=O)C1(CC(C(C1C2=CC=CC=C2)[N:21]=[N+:20]=[N-:10])C3=CC=CC=C3)C(=O)OC>>COC(=O)C1(CC(C(C1C2=CC=CC=C2)[N-:21][N+:20]#[N:10])C3=CC=CC=C3)C(=O)OC 10=20;20,21=21
C[C:22](=[O:23])[CH:21]=[CH:20]CCC([CH:10]=[C:11](C)[O-:12])SC1=CC=CC=C1.O.[K+]>>C[C:22](=[CH:21][CH:20]1CCC([CH:10]1[C:11](=[O:12])C)SC2=CC=CC=C2)[O-:23].O.[K+] 10,11=10,20;12=11;22,23=23;20,21=21,22
COC1C2C[C:20](=[O:21])C1C=C2.C[S+](=O)(C)[CH2-:10]>>COC1C2C[C:20](C1C=C2)([CH2:10][S+](=O)(C)C)[O-:21] 10=20;20,21=21
[B:20](CCCC)(CCCC)OS(=O)(=O)C(F)(F)F.CCC(=[O:10])C.CCN(C(C)C)C(C)C>>[B-:20](CCCC)(CCCC)(OS(=O)(=O)C(F)(F)F)[O+:10]=C(C)CC.CCN(C(C)C)C(C)C 10=20,
CC(CC=[O:10])C1(CCC(C=C1C[Si](C)(C)C)(C)C=C)C.Cl[Zn:20]Cl.[Cl-]>>CC(CC=[O+:10][Zn-:20](Cl)Cl)C1(CCC(C=C1C[Si](C)(C)C)(C)C=C)C.[Cl-] 10=20,
C1=C[CH:20]=[N:21]C=C1.[NH2-:10]>>C1=C[CH:20]([N-:21]C=C1)[NH2:10] 10=20;20,21=21
[B-]([O+:21]=[C:20](C)C)(F)(F)F.C[OH:10]>>[B-]([O:21][C:20](C)(C)[OH+:10]C)(F)(F)F 10=20;20,21=21
CC(C)(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[N+:20](=O)=[O:21]>>CC(C)(C)[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][O+:21](CC1=CC=CC=C1)C(=NC2CC3(C4C(=O)CC2CO4)C5=C(C=CC=C5)N(C3=O)OC)[O-].C1=CC=C(C=C1)C[OH:10]>>[H:20][OH+:10]CC1=CC=CC=C1.CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)N=C([O-])[O:21]CC5=CC=CC=C5 10=20;20,21=21
[H:20][OH:21].C[C:11](=[CH:10]CC1(C(=O)CCCC1=O)CC=C)[O-:12]>>[H:20][CH:10](CC1(C(=O)CCCC1=O)CC=C)[C:11](=[O:12])C.[OH-:21] 10,11=10,20;20,21=21;12=11
COC1=C2C3=C(CC4C5(C3(CCN4)C(O2)[C:20](CC5)([NH:10]N)[OH:21])O)C=C1.C(COCCO)O.O>>COC1=C2C3=C(CC4C5(C3(CCN4)C(O2)[C:20](=[NH+:10]N)CC5)O)C=C1.[OH-:21].C(COCCO)O.O 10=20;20,21=21
[H:20][O+:21]=C1CCC(CC1)C(C2=CC=CC=C2)(C3=CC=CC=C3)O.[OH2:10]>>[H:20][OH2+:10].C1CC(=[O:21])CCC1C(C2=CC=CC=C2)(C3=CC=CC=C3)O 10=20;20,21=21
CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)[OH+:21][CH:20]([OH:10])OC.OS(=O)(=O)[O-]>>CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)[OH:21].CO[CH:20]=[OH+:10].OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH2+:21].[C-:10]#N>>[H:20][C:10]#N.[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].C(F)(F)(F)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C(F)(F)F.[OH2:21] 10=20;20,21=21
C[C:20]([NH2+:21]C)(O)[OH:10].[Cl-]>>C[C:20](=[OH+:10])O.C[NH2:21].[Cl-] 10=20;20,21=21
C[C:20](C#N)([O-:10])[O:21]C(=O)C=C>>C[C:20](=[O:10])C#N.C=CC(=O)[O-:21] 10=20;20,21=21
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.[C:22](=[O:23])(C(Cl)(Cl)Cl)[C:21](Cl)(Cl)[Cl:20].C1=CC=C(C=C1)O>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)[Cl:20].[C:22](=[C:21](Cl)Cl)(C(Cl)(Cl)Cl)[O-:23].C1=CC=C(C=C1)O 10=20;22,23=23;20,21=21,22
CC[O+:21]=[C:20](C)C.[OH2:10]>>CC[O:21][C:20](C)(C)[OH2+:10] 10=20;20,21=21
CC(C[NH2:10])O.C1=CC=C(C=C1)C(=O)[CH2:20][Cl:21]>>CC(C[NH2+:10][CH2:20]C(=O)C1=CC=CC=C1)O.[Cl-:21] 10=20;20,21=21
C[P:10](C)C.[CH2:20]=[CH:21][CH:22]=[O:23]>>C[P+:10](C)(C)[CH2:20][CH:21]=[CH:22][O-:23] 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C(C)(CC)C(C)CC.[OH2:10]>>[H:20][OH2+:10].CCC(C)C(C)(CC)[OH:21] 10=20;20,21=21
C1=CC=C(C=C1)[CH:10](C2=CC=CC=C2)[OH+:11][In-](Cl)(Cl)Cl.C[Si](C)(C)CC#C>>C1=CC=C(C=C1)[CH+:10]C2=CC=CC=C2.[OH:11][In-](Cl)(Cl)Cl.C[Si](C)(C)CC#C 10,11=11
CCC(C)O[S:20](=O)(C(F)(F)F)([O-:10])[O:21]S(=O)(=O)C(F)(F)F>>C(F)(F)(F)S(=O)(=O)[O-:21].CCC(C)O[S:20](=O)(=[O:10])C(F)(F)F 10=20;20,21=21
C[C:20]1(C2=C(C=CC=C2)NC(=O)C([NH:10]1)CC3=CC=CC=C3)[OH:21].CC[NH+](CC)CC>>C[C:20]1=[NH+:10]C(C(=O)NC2=C1C=CC=C2)CC3=CC=CC=C3.[OH-:21].CC[NH+](CC)CC 10=20;20,21=21
CCO[C:20](=[OH+:21])CC(=O)OCC.[OH2:10]>>CCOC(=O)C[C:20]([OH2+:10])([OH:21])OCC 10=20;20,21=21
[H:20][N+:21]1(CCN(CC1)C2=C(C=C3C(=C2)C(=O)C4=C(C3(C)C)C5=C(N4)C=C(C=C5)C#N)CC)CC6(CCOCC6)[O-].CC[N:10](C(C)C)C(C)C.CO>>[H:20][N+:10](CC)(C(C)C)C(C)C.CCC1=C(C=C2C(=C1)C(C3=C(C2=O)NC4=C3C=CC(=C4)C#N)(C)C)N5CC[N:21](CC5)CC6(CCOCC6)[O-].CO 10=20;20,21=21
CC[OH+:21][C:20](C)([O:10]CC)OCC1=CC(C2(C1(COC2=O)C)C)O[Si](C)(C)C(C)(C)C.CCO.CC(C)(C)C(=O)[O-]>>CC[OH:21].CC[O+:10]=[C:20](C)OCC1=CC(C2(C1(COC2=O)C)C)O[Si](C)(C)C(C)(C)C.CCO.CC(C)(C)C(=O)[O-] 10=20;20,21=21
[Li-]([NH+](C(C)C)C(C)C)[O+]=C(C(CC12C3CCCC34CCC5C4NC1C(CCC25C)C(C)C)[C:20](C6(COC7(CCC6O7)C)C)([O-:10])[Cl:21])OC>>[Li-]([NH+](C(C)C)C(C)C)[O+]=C(C(CC12C3CCCC34CCC5C4NC1C(CCC25C)C(C)C)[C:20](=[O:10])C6(COC7(CCC6O7)C)C)OC.[Cl-:21] 10=20;20,21=21
